data/rdb19/train.csv
rxn,smiles,ea
2685,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([H:26])([H:27])[H:28],74.56642639584607
148,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:24])([H:6])([H:7])[H:8],28.749530343629885
2497,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([O:3][C:4]([O:5])([C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])[C:24]([H:25])([H:26])[H:27])([H:13])[H:14])([H:10])([H:11])[H:12],26.51661666762084
2074,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:8][C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26].[N:1]([C:2](=[O:3])[C:4]=[C:5]([H:9])[H:10])([H:6])[H:7],32.196976514474954
2230,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][O:12][C:11]([O:10][C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22],44.44721662340453
4805,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][C:15]([H:25])([H:26])[H:27],78.43707285809796
1369,[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:17]([C:15]([C:13]([O:12][C:11]([C:10]([H:20])([H:21])[H:22])([H:23])[H:24])=[O:14])([C:16]([H:26])([H:27])[H:28])[H:25])([H:18])[H:19])[H:7])[H:6],10.837079042044934
106,[C:12]([C:13](=[C:14]([H:21])[H:22])[C:15](=[O:16])[O:17][H:23])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:13](=[C:14]([H:21])[H:22])[C:15](=[O:16])[O:17][H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:12]([H:18])([H:19])[H:20])([H:6])([H:7])[H:8],67.97153508441988
2787,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:31])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([c:22]1[c:23][c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29],30.928342524101023
4006,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25](=[C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])[H:35])([H:31])([H:32])[H:33].[C:4]([H:15])([H:16])([H:17])[H:34],73.70519800187321
